US07799775B2
In 3 ml of N-methylpyrrolidone, 105 mg of 7-hydroxy-1-octahydropyrido[1,2-a]pyrazin-2-ylisoquinoline as synthesized in Production Example 84 was dissolved, and to the solution 1.00 g of sulfamoyl chloride was added, followed by an hour's stirring at room temperature. The solution was neutralized with saturated aqueous sodium hydrogencarbonate solution, extracted with chloroform, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (25% aqueous ammonia:methanol:chloroform=1:10:90) to provide 85 mg (75%) of 1-octahydropyrido[1,2-a]pyrazin-2-yl-7-sulfamoylisoquinoline.

reactant | 7-hydroxy-1-octahydropyrido[1,2-a]pyrazin-2-ylisoquinoline | 105 mg | OC1=CC=C2C=CN=C(C2=C1)N1CC2N(CC1)CCCC2 | C17H21N3O
reactant | sulfamoyl chloride | 1.00 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 1-octahydropyrido[1,2-a]pyrazin-2-yl-7-sulfamoylisoquinoline | 85 mg, 75% | C1C2N(CCN1C1=NC=CC3=CC=C(C=C13)S(N)(=O)=O)CCCC2 | C17H22N4O2S
